US08802713B2
1.5 g of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine was dissolved in 70 mL of tetrahydrofuran, and 0.83 g of malonyl chloride was added under cooling with ice. Stirring was carried out under reflux with heating for 5 hours, and the solvent was distilled off under reduced pressure. To the obtained residue, 20 mL of dichloromethane and 2 mL of methanol were added, and 0.7 mL of a diethyl ether solution (2.0 mol/L) of trimethylsilyldiazomethane was added under cooling with ice, followed by stirring at room temperature for 5 hours. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:1) to obtain 0.14 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-hydroxy-3-methoxypyrazole.

reactant | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 1.5 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10F4N2S
reactant | malonyl chloride | 0.83 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-hydroxy-3-methoxypyrazole | 0.14 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1O)OC | C13H12F4N2O2S
